### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Operations): drop `IsDedekindDomain` assumptions of some lemmas and move them to `Ideal/Operations.lean`

### PR DESCRIPTION
**Pull request by mbkybky**
Drop `[IsDedekindDomain R]` assumptions of some lemmas about ideal pow le a prime ideal and move them to `RingTheory/Ideal/Operations.lean`. Also add a lemma about product of elements in a prime ideal.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 1]
```diff
@@ -980,10 +980,31 @@ theorem IsPrime.multiset_prod_mem_iff_exists_mem {I : Ideal R} (hI : I.IsPrime)
...
+  have h : (Multiset.replicate n I).prod ≤ P ↔ _ := hP.multiset_prod_le
+  simp_rw [Multiset.prod_replicate, Multiset.mem_replicate, ne_eq, hn , not_false_eq_true,
+    true_and, exists_eq_left] at h
+  exact h
+
+theorem IsPrime.le_of_pow_le {I P : Ideal R} [hP : P.IsPrime] {n : ℕ} (h : I ^ n ≤ P) :
+    I ≤ P := by
+  by_cases hn : n = 0
+  · rw [hn, pow_zero, one_eq_top] at h
+    exact fun ⦃_⦄ _ ↦ h trivial
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Operations.lean:994]: I think this is clearer as
```suggestion
  · rw [hn, pow_zero, one_eq_top, top_le_iff] at h
    rw [h]
    exact le_top
```
or at least replace `h trivial` by `h Submodule.mem_top`

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 2]
```diff
@@ -1191,26 +1191,6 @@ theorem Ideal.le_mul_of_no_prime_factors {I J K : Ideal R}
     (UniqueFactorizationMonoid.dvd_of_dvd_mul_right_of_no_prime_factors (b := K) hJ0 ?_ hJ)
   exact fun hPJ hPK => mt Ideal.isPrime_of_prime (coprime _ hPJ hPK)
 
-theorem Ideal.le_of_pow_le_prime {I P : Ideal R} [hP : P.IsPrime] {n : ℕ} (h : I ^ n ≤ P) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1194]: Removed names need deprecated aliases

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
